US07175922B2
To a stirred solution of 9-bromophenanthrene (50 g) in benzene (250 mL) was added solid aluminum chloride (50 g) gradually in portions. After the addition was complete, the mixture was heated at reflux for one hour, then cooled to ambient temperature. A slow addition of 2N HCl (250 mL) was then made (caution: exothermic). The resultant mixture was heated to reflux for an hour. Once cooled the mixture was filtered. The crude solid was washed with several portions of water and air-dried. The black solid (13.5 g) was placed in a soxhlet extractor and extracted with hot THF. The concentrated extracts were sublimed under a nitrogen flow at 300° C. and 640 mTorr to provide 1.2 g of dibenzo[b,k]perylene. The sample was pure by HPLC analysis (Keystone PAH, 5 micron, 100×3 mm).

reactant | 9-bromophenanthrene | 50 g | BrC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C14H9Br
reactant | aluminum chloride | 50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2N, 250 mL | Cl | ClH
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | dibenzo[b,k]perylene | 1.2 g | C1=CC=C2C3=C(C=C4C=5C=CC=C6C7=C(C=C(C1=C24)C65)C=CC=C7)C=CC=C3 | C28H16
